US04877793
A mixture of 3-amino-4-ethoxythiophene (10 g) and diethyl ethoxymethylenemalonate (15.1 g) was stirred at 95° in an apparatus set for distillation. When ethanol evolution ceased (3 hours) the mixture was cooled to ambient temperature and the semi-solid was triturated with boiling petroleum ether (b.p. 60°-80°, 50 ml) then the mixture diluted with more petroleum ether (b.p. 60°-80, 300 ml). The solid was collected, washed with petroleum ether (b.p. 60°-80°) and dried to give the novel compound diethyl[(4-ethoxy-3-thienyl)amino]methylenemalonate, m.p. 108°-109°.

reactant | 3-amino-4-ethoxythiophene | 10 g | NC1=CSC=C1OCC | C6H9NOS
reactant | diethyl ethoxymethylenemalonate | 15.1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl[(4-ethoxy-3-thienyl)amino]methylenemalonate | C(C)OC(C(C(=O)OCC)=CNC1=CSC=C1OCC)=O | C14H19NO5S
